US04535089
6 g of N-(4-chlorobenzoyl)isobutyrylmethylamine are dissolved in 30 ml of dimethylformamide, and 1.4 g of 61% sodium hydride are added thereto at -50° C. to -40° C. under stirring. When, 6.0 g of ethyl bromoacetate are added to the mixture at the same temperature. After the temperature of the mixture is risen to about 0° C. gradually, said mixture is further stirred until it becomes a clear solution. After the reaction, the mixture is neutralized with acetic acid, and then water is added thereto. The aqueous solution is extracted with ethyl acetate. The extract is washed with water, dried and then condensed under reduced pressure to remove solvent. The residue is recrystallized from a mixture of isopropyl ether and n-hexane. 7.5 g of ethyl 3-(4-chlorobenzoylamino)-3-isobutyrylpropionate are obtained. Yield: 92.0%.

reactant | N-(4-chlorobenzoyl)isobutyrylmethylamine | 6 g | ClC1=CC=C(C(=O)NCC(C(C)C)=O)C=C1 | C12H14ClNO2
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | ethyl bromoacetate | 6.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-(4-chlorobenzoylamino)-3-isobutyrylpropionate | 7.5 g, Yield: 92.0% | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(C(C)C)=O)C=C1 | C16H20ClNO4
